US07244725B2
Alternative Preparation of tert-butyl (1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-{[(4S)-6-neopentyl-3,4-dihydro-2H-chromen-4-yl]amino}propylcarbamate
To neopentyl zinc chloride (prepared as previously described) (51 ml, 11 mmol, 0.2 M in THF) under a nitrogen atmosphere at r.t. was added tert-butyl (1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-{[(4S)-6-iodo-3,4-dihydro-2H-chromen-4-yl]amino}propylcarbamate (1.3 g, 2.2 mmol) and Pd(dppf)Cl2 (0.09 g, 0.1 mmol) as solids. The reaction mixture was stirred at r.t. for 12 h and then heated to 50° C. for 8 h. The reaction was cooled to r.t. then quenched with 20 ml of aqueous NH4Cl and extracted with EtOAc (3×100 ml). The combined organic layers were dried over Na2SO4 and concentrated in vacuo to yield a brown oil. The residue was dissolved in CH2Cl2 and absorbed onto 6 g of silica gel. Flash chromatography (3–5% MeOH/CHCl3 with 20 drops of NH4OH/L, Biotage 40M) yields the desired product, which is identical to the material prepared by the previously described methods.

reactant | neopentyl zinc chloride | [Cl-].C(C(C)(C)C)[Zn+]
reactant | tert-butyl (1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-{[(4S)-6-iodo-3,4-dihydro-2H-chromen-4-yl]amino}propylcarbamate | 2.2 mmol, 1.3 g | FC=1C=C(C[C@@H]([C@@H](CN[C@H]2CCOC3=CC=C(C=C23)I)O)NC(OC(C)(C)C)=O)C=C(C1)F | C24H29F2IN2O4
solvent | THF | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | Pd(dppf)Cl2 | 0.1 mmol, 0.09 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | tert-butyl (1S,2R)-1-(3,5-difluorobenzyl)-2-hydroxy-3-{[(4S)-6-neopentyl-3,4-dihydro-2H-chromen-4-yl]amino}propylcarbamate | FC=1C=C(C[C@@H]([C@@H](CN[C@H]2CCOC3=CC=C(C=C23)CC(C)(C)C)O)NC(OC(C)(C)C)=O)C=C(C1)F | C29H40F2N2O4
